US09290451B2
b) 2-[(6-Cyclopropylmethoxy-5-trifluoromethyl-pyridine-2-carbonyl)-amino]-2-ethyl-butyric acid
Ethyl 2-(6-(cyclopropylmethoxy)-5-(trifluoromethyl)picolinamido)-2-ethylbutanoate (62 mg, 154 μmol) was dissolved in a mixture of 1 M aqueous sodium hydroxide solution (616 μL, 616 μmol), THF (600 μL) and MeOH (600 μL). The mixture was stirred at 60° C. for 3 d, poured onto ice water/brine/1N HCl (20 mL) and extracted with EtOAc (2×30 mL). The combined extracts were washed with ice water/brine (20 mL) and dried over Na2SO4. The solvent was removed in vacuo to give the title compound (58 mg, quant.) as a light yellow solid. MS: 373.1 [M−H]−.

reactant | Ethyl 2-(6-(cyclopropylmethoxy)-5-(trifluoromethyl)picolinamido)-2-ethylbutanoate | 154 μmol, 62 mg | C1(CC1)COC1=C(C=CC(=N1)C(=O)NC(C(=O)OCC)(CC)CC)C(F)(F)F | C19H25F3N2O4
reactant | sodium hydroxide | 616 μmol, 1 M, 616 μL | [OH-].[Na+]
solvent | THF | 600 μL | C1CCOC1 | C4H8O
solvent | MeOH | 600 μL | CO | CH4O
product | 2-[(6-Cyclopropylmethoxy-5-trifluoromethyl-pyridine-2-carbonyl)-amino]-2-ethyl-butyric acid | 58 mg | C1(CC1)COC1=C(C=CC(=N1)C(=O)NC(C(=O)O)(CC)CC)C(F)(F)F | C17H21F3N2O4
